US04287200
In 50 ml of 2 N--HCl is dissolved 4.1 g of the above 2-imino-5-[4-(2-morpholinoethyloxy)benzyl]thiazolidin-4-one and the solution is heated under reflux for 16 hours. After cooling, the reaction mixture is neutralized with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate and distilled to remove the ethyl acetate, whereupon 3.8 g (92.7%) of 5-[4-(2-morpholinoethyloxy)benzyl]thiazolidine-2,4-dione is obtained as crystals. These crystals are recrystallized from dimethylformamide-water. Colorless prisms, m.p. 188°-189° C.

reactant | 2-imino-5-[4-(2-morpholinoethyloxy)benzyl]thiazolidin-4-one | 4.1 g | N=C1SC(C(N1)=O)CC1=CC=C(C=C1)OCCN1CCOCC1 | C16H21N3O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | HCl | Cl | ClH
product | 5-[4-(2-morpholinoethyloxy)benzyl]thiazolidine-2,4-dione | 3.8 g, 92.7% | O1CCN(CC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C16H20N2O4S
